US08314109B2
A suspension of 296 mg of ethyl 2-phenylcarbamoylimidazo[1,2-a]pyridine-6-carboximidate hydrochloride (1:1) in 10 mL of ethanol is cooled to 0° C., followed by addition of 144 μL of ethylenediamine. The reaction mixture is refluxed for 16 hours and then stirred at room temperature for 60 hours. The precipitate is filtered off by suction and washed with ethanol and then recrystallized from methanol to give 64 mg of 6-(4,5-dihydro-1H-imidazol-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride (1:2) in the form of a white solid. The filtrate is concentrated to dryness and taken up in water. The insoluble matter is filtered off by suction, washed with methanol and then dried to give 99 mg of 6-(4,5-dihydro-1H-imidazol-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride (1:1) in the form of a white solid.

reactant | ethyl 2-phenylcarbamoylimidazo[1,2-a]pyridine-6-carboximidate hydrochloride | 296 mg | Cl.C1(=CC=CC=C1)NC(=O)C=1N=C2N(C=C(C=C2)C(OCC)=N)C1
reactant | ethylenediamine | 144 μL | C(CN)N | C2H8N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-(4,5-dihydro-1H-imidazol-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride | 64 mg | Cl.N1C(=NCC1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | InChI=1S/C17H15N5O.ClH/c23-17(20-13-4-2-1-3-5-13)14-11-22-10-12(6-7-15(22)21-14)16-18-8-9-19-16;/h1-7,10-11H,8-9H2,(H,18,19)(H,20,23);1H
